US07368578B2
A mixture of 4-(4-chloromethyl-5-methyl-1,3-thiazol-2-yl)morpholine (1.00 g), triphenylphosphine (1.13 g) and acetonitrile (50 mL) was heated under reflux for 15 hrs. After concentration of the reaction mixture, the precipitated crystals were washed with acetonitrile and diethyl ether to give (5-methyl-2-morpholin-4-yl-1,3-thiazol-4-yl)triphenylphosphonium chloride as pale-yellow crystals (1.93 g, yield 91%). Recrystallization from acetonitrile-diethyl ether gave colorless prism crystals. melting point: 242-243° C.

reactant | 4-(4-chloromethyl-5-methyl-1,3-thiazol-2-yl)morpholine | 1.00 g | ClCC=1N=C(SC1C)N1CCOCC1 | C9H13ClN2OS
reactant | triphenylphosphine | 1.13 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | (5-methyl-2-morpholin-4-yl-1,3-thiazol-4-yl)triphenylphosphonium chloride | 1.93 g, yield 91% | [Cl-].CC1=C(N=C(S1)N1CCOCC1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C26H26N2OPS.ClH/c1-21-25(27-26(31-21)28-17-19-29-20-18-28)30(22-11-5-2-6-12-22,23-13-7-3-8-14-23)24-15-9-4-10-16-24;/h2-16H,17-20H2,1H3;1H/q+1;/p-1
